US07115611B2
A] [rac[-(2-Methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy]-phenylsulfanyl)-acetic acid tert-butyl ester
To 0.118 g (0.39 mmol) of the above prepared [rac]-3-(1-chloro-ethyl)-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine (example 17C]) and 0.100 g (0.39 mmol) of (4-hydroxy-2-methyl-phenylsulfanyl)-acetic acid tert-butyl ester (see below example 20C]), dissolved in 2.0 ml of abs. acetone, were added successively 0.065 g (0.39 mmol) of KI and 0.154 g (0.47 mmol) of Cs2CO3. The reaction was allowed to proceed for 2 h at ambient temperature, when TLC still indicated large amounts of starting material. Therefore, stirring was continued over night at 40° C. Pouring onto crashed ice, extraction with AcOEt, filtration over Celite, washing of the organic layer with water, drying over sodium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=9/1), produced 0.143 g of the title compound as colorless oil.

reactant | [rac]-3-(1-chloro-ethyl)-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | ClC(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C15H13ClF3N
reactant | (4-hydroxy-2-methyl-phenylsulfanyl)-acetic acid tert-butyl ester | 0.39 mmol, 0.100 g | C(C)(C)(C)OC(CSC1=C(C=C(C=C1)O)C)=O | C13H18O3S
reactant | Cs2CO3 | 0.47 mmol, 0.154 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetone | CC(=O)C | C3H6O
product | (2-Methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy]-phenylsulfanyl)-acetic acid tert-butyl ester | 0.143 g | C(C)(C)(C)OC(CSC1=C(C=C(C=C1)OC(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C28H30F3NO3S
